US08871766B2
B) tert-butyl 4-(4-cyanobenzyl)-4-hydroxypiperidine-1-carboxylate
A mixture of tert-butyl 4-(4-bromobenzyl)-4-hydroxypiperidine-1-carboxylate (35 g), K4Fe(CN)6 (12 g), palladium(II) acetate (1.1 g), sodium carbonate (11 g), 2-propanol (7.5 mL) and DMA (150 mL) was stirred at 120° C. for 12 hr. The reaction mixture was allowed to cool to room temperature, diluted with dichloromethane, and filtered through celite. The filtrate was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (17 g).

reactant | tert-butyl 4-(4-bromobenzyl)-4-hydroxypiperidine-1-carboxylate | 35 g | BrC1=CC=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C17H24BrNO3
reactant | sodium carbonate | 11 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-propanol | 7.5 mL | CC(C)O | C3H8O
reactant | DMA | 150 mL | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium(II) acetate | 1.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-(4-cyanobenzyl)-4-hydroxypiperidine-1-carboxylate | 17 g | C(#N)C1=CC=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C18H24N2O3
